US06444685B1
N-Benzyl-4-{4-[2-hydroxy-3-(2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-propylamino]-piperidin-1-yl}-benzenesulfonamide
The title compound was prepared from 4-((2S)-3-Amino-2-hydroxy-propoxy)-1,3-dihydro-benzoimidazol-2-one and Reference Example 70, N-benzyl-4-(4-oxo-piperidin-1-yl)-benzenesulfonamide, according to the procedure of Example 1 as a grey solid. 1H NMR (DMSO) δ 1.37 (m, 2H), 1.90 (m, 2H), 2.73 (m, 2H), 2.84(m, 2H), 2.99(m, 4H), 3.87(m, 3H), 4.03(m, 1H), 5.07(bs, 1H), 6.67 (m, 1H), 6.85(t, 1H, J=8.1 Hz), 7.07(d, 2H), J=9.0 Hz), 7.32 (m, 6H), 7.59 (d, 2H, J=8.7 Hz), 10.59 (bs, 1H), 10.72 (bs, 1H); MS (ES) m/z: 552.1 (MH+); HRMS for C28H33N5O5S: 552.2267 (MH+).

reactant | 4-((2S)-3-Amino-2-hydroxy-propoxy)-1,3-dihydro-benzoimidazol-2-one | NC[C@@H](COC1=CC=CC=2NC(NC21)=O)O | C10H13N3O3
reactant | N-benzyl-4-(4-oxo-piperidin-1-yl)-benzenesulfonamide | C(C1=CC=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)=O | C18H20N2O3S
product | N-Benzyl-4-{4-[2-hydroxy-3-(2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-propylamino]-piperidin-1-yl}-benzenesulfonamide | C(C1=CC=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)NCC(COC1=CC=CC=2NC(NC21)=O)O | C28H33N5O5S
